US03988370
Proceeding in a manner similar to that described above in Example 18A, and using 2.3 g. of sodium, 22 g. of n-octylguanidine sulfate, and 15.5 g. of n-octyl isocyanate, there was obtained 26 g. of 1 -n-octylamidino-3-n-octylurea having the structural formula ##EQU69## as a white crystalline solid which melted at 60°-62°C. The solubility of this base in water at 25°C. was less than 0.25 per cent. IN 95 per cent ethyl alcohol it was soluble to the extent of 5 per cent; a precipitate formed when the 5 per cent ethanolic solution was diluted with four volumes of water.

reactant | sodium | [Na] | Na
reactant | n-octylguanidine sulfate | S(=O)(=O)(O)O.C(CCCCCCC)NC(=N)N
product | n-octyl isocyanate | C(CCCCCCC)N=C=O | C9H17NO
